US06294503B1
Preparation of 3-[5-amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione (Compound No.1-4)
3-[7-Fluoro-4-methyl-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (1.45 g) was dissolved in acetic acid (80 ml) containing iron powder (1.16 g). The mixture was stirred for 3 days under nitrogen atmosphere. After filtration, water (100 ml) and ethyl acetate (150 ml) were added to the filtrate, the organic phase was washed with water (30 ml×3) and brine (30 ml), dried over sodium sulfate. After filtration and evaporation, the residue was purified by silica gel column (hexane to 40% ethyl acetate) to afford the title compound (1.1 g).

reactant | 3-[7-Fluoro-4-methyl-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 1.45 g | FC1=CC2=C(N(C(CO2)=O)C)C(=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C15H10F4N4O6
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1.16 g | [Fe] | Fe
product | 3-[5-amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 1.1 g | NC1=C(C(=CC2=C1N(C(CO2)=O)C)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H12F4N4O4
